US03951981
In a similar fashion 7-fluoro-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one is treated with phosphorus pentasulfide to give 7-fluoro-4,9-dihydro-10H-thieno[3,4-b][1,5]-benzodiazepine-10-thione.

reactant | 7-fluoro-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | FC=1C=CC2=C(NC(C=3C(N2)=CSC3)=O)C1 | C11H7FN2OS
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
product | 7-fluoro-4,9-dihydro-10H-thieno[3,4-b][1,5]-benzodiazepine-10-thione | FC=1C=CC2=C(NC(C=3C(N2)=CSC3)=S)C1 | C11H7FN2S2
